### PR TITLE
Added initial interfaces implementation

### PR DESCRIPTION
**Pull request by sharontlin**
- Basic interface implemented 
- Adding typeswitch statement

### CODE REVIEW

File: goose.go [hunk 1]
```diff
@@ -321,10 +335,12 @@ func (ctx Ctx) coqType(e ast.Expr) coq.Type {
...
 	case *ast.InterfaceType:
 		if isEmptyInterface(e) {
-			return coq.TypeIdent("anyT")
+			return coq.TypeIdent("interfaceT")
 		} else {
-			ctx.unsupported(e, "non-empty interface")
+			return ctx.interfaceType(e)
 		}
+	case *ast.FuncType:
+		return coq.TypeIdent("funcT")
```
Comment (tchajed) [inline goose.go:343]: I don't see such a definition in Perennial, so how does this compile in Coq? For now it's fine to add `funcT` to the type system without input/return types, but if we ever wanted to typecheck GooseLang programs we would need them. If you can I would translate those types even if the Coq definition ignores them.

File: goose.go [hunk 2]
```diff
@@ -234,6 +240,8 @@ func (ctx Ctx) coqTypeOfType(n ast.Node, t types.Type) coq.Type {
 			return coq.TypeIdent("boolT")
 		case "string", "untyped string":
 			return coq.TypeIdent("stringT")
+		case "float64":
+			ctx.unsupported(n, "basic type %s", t.Name())
```
Comment (tchajed) [inline goose.go:244]: This probably shouldn't be here.

File: goose.go [hunk 3]
```diff
@@ -1928,17 +1962,10 @@ func (ctx Ctx) returnType(results *ast.FieldList) coq.Type {
 		return coq.TypeIdent("unitT")
 	}
 	rs := results.List
-	for _, r := range rs {
-		if len(r.Names) > 0 {
-			ctx.unsupported(r, "named returned value")
```
[the remark this answers is not in the document]
Comment (sharontlin) [reply goose.go:1933]: I was trying to retrieve the type of each method defined in the interface, and it seems that this loop prevents access to the name of the type. Maybe there's a way around this? 

For instance, within this interface:
```
type greeting interface {
   intro() string
}
```
I want to retrieve `string`. The loop rejects named returned values so I'm unable to retrieve `string` for `intro()`. I may be misunderstanding the implementation, though. 

I'll add the negative test to prevent the failure from happening in future translations.

File: goose.go (hunk 2 above)
Comment (sharontlin) [reply goose.go:244]: That's correct, thanks!

File: goose.go (hunk 3 above)
[the remark this answers is not in the document]
Comment (tchajed) [reply goose.go:1933]: In that example `string` isn't named. The representation is that `rs` is a list with one element (for the one return value), and it has `r.Names` of `nil` (because it doesn't have a name).

I haven't looked specifically at types in interfaces so they might be represented differently, but note that you can also write `intro() (s string)` and use a named return value.

File: goose.go [hunk 4]
```diff
@@ -1937,8 +1958,7 @@ func (ctx Ctx) returnType(results *ast.FieldList) coq.Type {
 	var ts []coq.Type
 	for _, r := range rs {
 		if len(r.Names) > 0 {
-			ctx.unsupported(r, "named returned value")
-			return coq.TypeIdent("<invalid>")
+			ts = append(ts, ctx.coqType(r.Type.(*ast.FuncType).Results.List[0].Type))
```
Comment (tchajed) [inline goose.go:1961]: This is still incorrectly allowing named return values. It looks like you might be expecting `results` to be a function type; in that situation you'll need to call this function on `r.Type.(*ast.FuncType).Results` or something similar, rather than modifying `returnType` itself (which is only intended to process a return type declaration).

Comment (sharontlin) [reply goose.go]: I ended up reverting this, thanks!

File: goose.go [hunk 5]
```diff
@@ -355,6 +371,9 @@ func (ctx Ctx) paramList(fs *ast.FieldList) []coq.FieldDecl {
 	var decls []coq.FieldDecl
 	for _, f := range fs.List {
 		ty := ctx.coqType(f.Type)
+		if ty == coq.TypeIdent("funcT") {
+			ty = ctx.returnType(fs)
```
[the remark this answers is not in the document]
Comment (sharontlin) [reply goose.go:361]: This doesn't actually work the way I intended, but currently the code generation outputs
```
 Definition M := struct.decl [
    "firstFunc" :: funcT;
    "secondFunc" :: funcT
  ].
```

whereas I was trying to output

```
 Definition M := struct.decl [
    "firstFunc" :: string;
    "secondFunc" :: string
  ].
```

File: goose.go (hunk 1 above)
Comment (tchajed) [reply goose.go:329]: This is the only thing preventing me from merging, could you look into adding this definition to Perennial?

File: internal/examples/semantics/semantics.gold.v [hunk 6]
```diff
@@ -9,6 +9,8 @@ Module unit.
   ].
 End unit.
 
+
+
```
Comment (tchajed) [inline internal/examples/semantics/semantics.gold.v:13]: Somewhere you're getting extra lines - are you outputting some newlines around the discovered struct -> interface conversions? That should only print newlines if there are actually some conversions to print.

File: goose.go [hunk 7]
```diff
@@ -2045,8 +2109,67 @@ func (ctx Ctx) imports(d []ast.Spec) []coq.Decl {
 func (ctx Ctx) maybeDecls(d ast.Decl) []coq.Decl {
 	switch d := d.(type) {
 	case *ast.FuncDecl:
+		cv := coq.StructToInterface{}
+		for i := 0; i < len(d.Body.List); i++ {
```
Comment (tchajed) [inline goose.go:2113]: You can directly do a for-range loop over `d.Body.List`

File: goose.go [hunk 8]
```diff
@@ -2045,8 +2109,67 @@ func (ctx Ctx) imports(d []ast.Spec) []coq.Decl {
...
+			switch f := d.Body.List[i].(type) {
+			case *ast.ReturnStmt:
+				interfaceName := ""
+				methods := []string{}
+				if len(f.Results) > 0 {
+					if results, ok := f.Results[0].(*ast.BinaryExpr); ok {
+						if call, ok := results.X.(*ast.CallExpr); ok {
+							if signature, ok := ctx.typeOf(call.Fun).(*types.Signature); ok {
```
Comment (tchajed) [inline goose.go:2121]: Oh dear, this is getting extremely nested. I think there are a couple things to do about this:

- You should break out as much as you can to helper functions. For example, at least the `case *ast.ReturnStmt` and `case *ExprStmt` should be separate functions (I'm not exactly sure what these two cases do). There's also a pattern that gets and cleans up type names.
- These `if` statements that do type switching necessarily leads to one level of nesting, which is annoying. What you can try to do is factor out a function which does all the type-checking and if it succeeds returns the `*ast.CallExpr` or whatever else you're looking for.

**Review by tchajed — COMMENTED** [review]
I think this is getting there! At least hand-auditing the gold output it seems good, but of course it should also compile in Perennial by the end.

File: goose.go [hunk 9]
```diff
@@ -2045,8 +2109,67 @@ func (ctx Ctx) imports(d []ast.Spec) []coq.Decl {
 func (ctx Ctx) maybeDecls(d ast.Decl) []coq.Decl {
 	switch d := d.(type) {
 	case *ast.FuncDecl:
+		cv := coq.StructToInterface{}
```
Comment (tchajed) [inline goose.go:2112]: I guess for now this code can only detect one struct to interface conversion in a function. That's fine for now, but it should be documented with a TODO and I think you should return an unsupported error if you encounter another required conversion.

File: internal/examples/semantics/semantics.gold.v [hunk 10]
```diff
@@ -413,6 +413,55 @@ Theorem failing_testFunctionOrdering_t: ⊢ failing_testFunctionOrdering : (unit
...
+Definition TestStruct__Square: val :=
+  rec: "TestStruct__Square" "t" :=
+    struct.get TestStruct.S "Number" "t" * struct.get TestStruct.S "Number" "t".
+Theorem TestStruct__Square_t: ⊢ TestStruct__Square : (struct.t TestStruct.S -> uint64T).
+Proof. typecheck. Qed.
+Hint Resolve TestStruct__Square_t : types.
+
+Definition TestStruct__to__testInterface: val :=
+  rec: "TestStruct_to_testInterface" "t" :=
+    struct.mk testInterface.S ["Square" ::= "TestStruct__Square" "t"].
```
Comment (tchajed) [inline internal/examples/semantics/semantics.gold.v:453]: This translation doesn't make sense. First, "TestStruct__Square" is incorrectly a variable rather than the Gallina definition.

More subtly, because this method takes no arguments this will run `Square()` just in constructing the interface value and cache the result, which isn't the right semantics (it doesn't matter here because Square is pure, but if it had a side effect it would matter).

I think the most elegant solution is to not pass "t" here and instead do it when you call the Square method on the interface value. We would add the underlying value to the interface representation (which is anyway needed to implement type conversions) and then change how interfaces are called. Calling will become a bit more complicated so I'd prefer that it has a helper function in Gallina rather than emitting a complex expression from goose.

**Review by tchajed — COMMENTED** [review]
There are still several bugs in the translation, so it would be good to start adding more tests that catch these cases. For example, at least having an example of a function with a side-effect that takes no arguments, and an example with more than one interface method.

File: internal/examples/semantics/semantics.gold.v (hunk 10 above)
Comment (sharontlin) [reply internal/examples/semantics/semantics.gold.v:453]: Thanks, I'll make changes to the translations.

File: goose.go (hunk 1 above)
Comment (sharontlin) [reply goose.go]: Resolving due to updated PR
